US06992087B2
Preparation of N-[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting N-(5-bromo-3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine, ethylene glycol dimethyl ether and tetrakis(triphenylphosphine) palladium and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 8.48, 7.62, 7.50, 7.34-7.19, 5.41, 3.07-3.02, 2.75, 2.48, 1.97, 1.33, 1.17; HRMS (FAB) calcd for C22H22Cl2N4+H 413.1299, found 413.1285.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | N-(5-bromo-3,6-diethylpyrazin-2-yl)-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine | BrC=1N=C(C(=NC1CC)NC1CCC=2C1=NC=CC2)CC | C16H19BrN4
catalyst | tetrakis(triphenylphosphine) palladium | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
product | N-[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]-6,7-dihydro-5H-cyclopenta[b]pyridin-7-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)NC1CCC=2C1=NC=CC2)CC | C22H22Cl2N4
